US07456187B2
A solution of malononitrile (0.31 g, 4.65 mmol) and triethylamine (0.65 ml, 4.65 mmol) in methanol (5 ml) was added drop-wise to a stirred suspension of 2-hydroxy-4′-fluoroacetophenone (0.65 g, 4.22 mmol) in methanol (16 ml) under a nitrogen atmosphere at ambient temperature. When the addition was complete, the mixture was stirred for 18 hr at ambient temperature. The solvent was then removed in vacuo, water (50 ml) was then added to the residue and the mixture was extracted with dichloromethane (3×50 ml). The combined extracts were dried (MgSO4) and the solvent removed in vacuo to give the crude 2-amino-4-(4′-fluorophenyl)-3-furonitrile which was partially purified by flash chromatography (silica) eluting with dichloromethane and ethyl acetate (1:1). This gave a 3.5:1 mixture of the product and 2-hydroxy-4′-fluoroacetophenone (0.60 g), which was used without further purification.

reactant | malononitrile | 4.65 mmol, 0.31 g | C(CC#N)#N | C3H2N2
reactant | triethylamine | 4.65 mmol, 0.65 ml | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxy-4′-fluoroacetophenone | 4.22 mmol, 0.65 g | OCC(=O)C1=CC=C(C=C1)F | C8H7FO2
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 16 ml | CO | CH4O
product | 2-amino-4-(4′-fluorophenyl)-3-furonitrile | NC=1OC=C(C1C#N)C1=CC=C(C=C1)F | C11H7FN2O
